US04180565
2-Aminoethanol (20 g.) and sodium carbonate (27.8 g.) is dissolved in acetone-water (4:1) (500 ml.) and 2,2,2-trichloroethylchloroformate (104.2 g.) is added dropwise to the stirred solution at 0° C. over a period of 0.5 hours. The mixture is stirred at 0° C. for a further 3 hours. The solids are filtered off and washed with acetone and the filtrate is evaporated to dryness. The resulting gum is taken up in chloroform (500 ml.) and washed with water (3×100 ml.). The chloroform solution is evaporated to dryness to give 2-(2,2,2-trichloroethoxycarbonylamino)ethanol; ν max (film), 3300, 2910, 1700, 1520, 1240, 1140, 1055, cm-1 ; δ (CDCl3) 3.43 (2H, t, J 7.5 Hz, HOCH2CH2NH--), 3.77 (2H, t, J 7.5 Hz, HOCH2CH2NH--) and 4.77 ppm (2H, s, --COOCH2CCl3).

reactant | 2-Aminoethanol | 20 g | NCCO | C2H7NO
reactant | sodium carbonate | 27.8 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2,2,2-trichloroethylchloroformate | 104.2 g | ClC(COC(=O)Cl)(Cl)Cl | C3H2Cl4O2
solvent | acetone water | 500 ml | CC(=O)C.O
product | 2-(2,2,2-trichloroethoxycarbonylamino)ethanol | ClC(COC(=O)NCCO)(Cl)Cl | C5H8Cl3NO3
